US04366323
Preparation of bis[4-(1-hydroxy-1,1,3,3-tetramethyldisiloxanyl)phenyl]carbonate
To a cold (-5° C.) solution of 100 ml of acetone, 4 ml. of water and a catalytic amount of 5% palladium-on-carbon was added slowly 9.0 g of bis[4-(1,1,3,3-tetramethyldisiloxanyl)phenyl]carbonate in 20 ml. of acetone over a period of 8 hrs. After the addition was complete, the palladium-on-carbon was removed by filtration. The filtrate was concentrated on a rotary evaporator at room temperature to a viscous liquid which solidified upon treatment with pentane. There was obtained 7.5 g (78%) of the required compound. The carbonate was recrystallized from benzene and hexane solution to yield the pure compound, m.p. 62°-63° C.

reactant | water | O | H2O
reactant | bis[4-(1,1,3,3-tetramethyldisiloxanyl)phenyl]carbonate | 9.0 g | C[Si](O[SiH](C)C)(C)C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[Si](O[SiH](C)C)(C)C)=O | C21H34O5Si4
reactant | acetone | CC(=O)C | C3H6O
reactant | acetone | 100 ml | CC(=O)C | C3H6O
catalyst | palladium-on-carbon | [Pd] | Pd
product | bis[4-(1-hydroxy-1,1,3,3-tetramethyldisiloxanyl)phenyl]carbonate | 7.5 g, 78% | O[Si](O[Si](C)(C)C1=CC=C(C=C1)OC(OC1=CC=C(C=C1)[Si](O[Si](C)(C)O)(C)C)=O)(C)C | C21H34O7Si4
